US07531532B2
N-{4-[2-(3,3-Dimethylureido)pyridin-4-yloxy]-2-fluorophenyl}-N′-(4-fluorophenyl)malonamide
To a solution of N-[4-(2-aminopyridin-4-yloxy)-2-fluorophenyl]-N′-(4-fluorophenyl)malonamide (35 mg) in tetrahydrofuran (2.8 ml) was added triethylamine (0.0245 ml), and then phenyl chloroformate (0.0221 ml) was added dropwise thereto while cooling in an ice water bath, followed by stirring for 30 min. The reaction mixture was concentrated under a reduced pressure. To a suspension of the residue in N,N-dimethylformamide (1.4 ml) was added dimethylamine (0.175 ml, 2.0 M solution in tetrahydrofuran), followed by stirring at room temperature for 5 hrs. Diethylamine hydrochloride (35.8 mg) and triethylamine (0.2 ml) were added further, followed by stirring at room temperature for 2 hrs. The reaction mixture was partitioned between ethyl acetate (50 ml) and a 1 N aqueous solution of sodium hydroxide (30 ml). The organic layer was washed with a 1 N aqueous solution of sodium hydroxide and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then subjected to silica gel filtration (FUJI Silysia NH). The filtrate was concentrated under a reduced pressure to give a residue, which was then purified by silica gel column chromatography (eluent; hexane:ethyl acetate=1:2, ethyl acetate, then ethyl acetate:methanol=20:1 to 10:1). Fractions containing the target compound were concentrated to give a solid, which was then suspended in ethanol (0.5 ml)-diethyl ether (2.5 ml), filtered off, and dried under aeration to provide the titled compound (12.4 mg, 30%) as pale brown powder.

reactant | N-[4-(2-aminopyridin-4-yloxy)-2-fluorophenyl]-N′-(4-fluorophenyl)malonamide | 35 mg | NC1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(CC(=O)NC1=CC=C(C=C1)F)=O)F | C20H16F2N4O3
reactant | triethylamine | 0.0245 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.0221 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | diethyl ether | 2.5 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 2.8 ml | O1CCCC1 | C4H8O
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
product | N-{4-[2-(3,3-Dimethylureido)pyridin-4-yloxy]-2-fluorophenyl}-N′-(4-fluorophenyl)malonamide | 12.4 mg, 30% | CN(C(NC1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(CC(=O)NC1=CC=C(C=C1)F)=O)F)=O)C | C23H21F2N5O4
